2159-12-29 09:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, acute renal failure, hypotension,
   cirrhosis, pneumonia. acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On vanco, zosyn, cipro. On norepi for hypotension. Initial CVP 7; with
   fluids up to [**1-14**] on PEEP 12.
   On CMV assist with tidal volume 330; FIO2 0.8. PEEP 12.
   WBC up to 25.
   24 Hour Events:
 BLOOD CULTURED - At [**2159-12-28**] 05:00 PM
 URINE CULTURE - At [**2159-12-28**] 05:00 PM
 ARTERIAL LINE - START [**2159-12-28**] 06:16 PM
 INVASIVE VENTILATION - START [**2159-12-28**] 07:30 PM
   MICU 6
 MULTI LUMEN - START [**2159-12-28**] 08:02 PM
 BRONCHOSCOPY - At [**2159-12-28**] 10:28 PM
 BLOOD CULTURED - At [**2159-12-28**] 10:30 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2159-12-28**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-12-29**] 06:00 AM
   Vancomycin - [**2159-12-29**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-12-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-12-29**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 109 (101 - 111) bpm
   BP: 95/54(71) {83/46(61) - 109/60(78)} mmHg
   RR: 30 (20 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
   CVP: 9 (7 - 16)mmHg
   Total In:
                                                                  3,136 mL
                                                                    461 mL
   PO:
   TF:
   IVF:
                                                                  3,036 mL
                                                                    421 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    505 mL
                                                                    175 mL
   Urine:
                                                                    505 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,631 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 450) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 29 cmH2O
   Compliance: 21.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.30/37/99.[**Numeric Identifier **]/18/-7
   Ve: 11.3 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic,
   Diastolic), I/VI systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Clear anterior and lateral, Crackles : Rare)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing, Warm and well
   perfused
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   50 K/uL
   91 mg/dL
   2.3 mg/dL
   18 mEq/L
   4.0 mEq/L
   49 mg/dL
   105 mEq/L
   133 mEq/L
   30.9 %
   25.8 K/uL
        [image002.jpg]
                            [**2159-12-28**]  04:55 PM
                            [**2159-12-28**]  06:10 PM
                            [**2159-12-28**]  07:41 PM
                            [**2159-12-28**]  09:10 PM
                            [**2159-12-29**]  01:37 AM
                            [**2159-12-29**]  04:50 AM
                            [**2159-12-29**]  05:41 AM
   WBC
   18.8
   25.8
   Hct
   30.1
   30.9
   Plt
   49
   50
   Cr
   2.6
   2.3
   TCO2
   20
   20
   19
   19
   19
   Glucose
   82
   91
   Other labs: PT / PTT / INR:20.2/44.7/1.9, ALT / AST:82/224, Alk Phos /
   T Bili:155/7.8, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:313 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:235 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.3 mg/dL
   Microbiology: Blood cultures with gram negative rods at outside
   hospital.
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   ACIDOSIS
   ANEMIA
   CIRRHOSIS
   BACTEREMIA
   HYPOTENSION
   ====================
   Patient with acute respiratory failure with CXR suggestive of ARDS. Now
   getting about 8 ml/kg VT (pulling more than vent setting). Will try to
   reduce FIO2 now; O2 sat 97%. Maintain PEEP at present setting for now.
   Patient with urine output < 30 cc hour. Filling pressures are low now,
   considering high PEEP. Would bolus with D5W with 3 amps bicar per liter
   to try to get urine output to 50 cc/hr and avoid worsening metabolic
   acidosis which is driving her respiratory rate and tidal volume and
   making it more difficult to do ARDSnet protocol.
   Continue antibiotics. She is getting double coverage for gram negative
   bacteremia.
   Patient to get albumin given albumin 1.7. Consider lactulose.
   Would add vasopressin and see if we can wean off levophed today as we
   give fluids.
   ICU Care
   Nutrition: Start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2159-12-28**] 05:00 PM
   18 Gauge - [**2159-12-28**] 05:00 PM
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2159-12-30 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2159-12-29**] 12:00 PM
   abdominal
   [**12-29**]:
   - goal urine output 50cc/hour
   - 25 albumin  --> did she get it?
   - D5W with 3A bicarb @150cc/hour  --> for 2L
   - started lactulose, rifaximin, vasopressin
   - abdominal u/s: Moderate amount of ascites, with the largest pocket in
   the right lower quadrant.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] stim test -->  failed [**Last Name (un) **] stim, started on Hydrocortisone
   - Hep recs: give alb 25g, Abd us to eval for ascites. Elevated Tbili
   likely due to infxn. Would give additional 25g albumin (done), f/u
   blood and urine cx's, continue hold Lasix and Aldactone, get abd u/s
   (done). Attndg recs get an echo for 2/6 systolic murmur (not ordered)
   - Started on TF's but had high residuals so stopped
   - Pt breath stacking? Has small double-digit Tv's and then subsequent
   large Tv breaths. Increased sedation modestly (now at Versed 6). Went
   up on PEEP (to 15) with goal to go down on Fi02 (currently 80%, haven't
   weaned).
   - 1015pm 7.31/46/74/24
   - Discuss doing a para on her --> only small ascites on u/s though
   - Maintaining UOP ~50/hr, CVP 8, so bolused 500cc D5W with HCO3
   [**12-30**]
   - O2 trending down so increased PEEP to 17, FiO2 still 80%, put in
   reverse Tberg, and getting CXR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-12-29**] 08:00 AM
   Ciprofloxacin - [**2159-12-29**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-12-30**] 12:25 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-12-29**] 09:00 PM
   Fentanyl - [**2159-12-30**] 03:37 AM
   Midazolam (Versed) - [**2159-12-30**] 03:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-12-30**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 93 (93 - 112) bpm
   BP: 99/61(77) {91/52(68) - 109/65(83)} mmHg
   RR: 30 (17 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 7 (7 - 15)mmHg
   Total In:
                                                                  3,399 mL
                                                                  1,259 mL
   PO:
   TF:
                                                                     55 mL
   IVF:
                                                                  3,084 mL
                                                                  1,259 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    255 mL
   Urine:
                                                                    805 mL
                                                                    255 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                              2,344  --> approx 6L positive through LOS mL
                                                                  1,004 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 17 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   SpO2: 96%
   ABG: 7.37/47/179/26/1   THIS AM --> O2 MUCH IMPROVED   --> repeat
   7.37/46/118/28
   Ve: 10.4 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Diaphoretic
   Eyes / Conjunctiva: Icteric and with conjunctival hemorrhage
   Cardiovascular: RRR, no murmurs appreciated. S1 S2 clear.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Lungs fairly clear to ausculatation, no
   adventitious sounds heard bilaterally
   Abdominal: Distended
   Extremities: Bilateral hands with edema > lower extrems, feet with
   edema though
   Skin:  Not assessed, No(t) Jaundice, Jaundiced
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   41 K/uL
   9.3 g/dL
   314 mg/dL
   2.2 mg/dL
   26 mEq/L
   4.2 mEq/L
   51 mg/dL
   95 mEq/L
   129 mEq/L
   27.9 %
   19.7 K/uL
        [image002.jpg]
                            [**2159-12-29**]  01:37 AM
                            [**2159-12-29**]  04:50 AM
                            [**2159-12-29**]  05:41 AM
                            [**2159-12-29**]  12:08 PM
                            [**2159-12-29**]  03:30 PM
                            [**2159-12-29**]  05:16 PM
                            [**2159-12-29**]  10:15 PM
                            [**2159-12-30**]  03:11 AM
                            [**2159-12-30**]  03:27 AM
                            [**2159-12-30**]  04:34 AM
   WBC
   25.8
   19.7
   Hct
   30.9
   27.9  ACUTE DROP
   Plt
   50
   41
   Cr
   2.3
   2.2  TRENDING DOWN
   TCO2
   19
   19
   20
   24
   22
   24
   30
   28
   Glucose
   91
   314
   Other labs: PT / PTT / INR:24.0/46.2/2.3   INCREASED FROM YESTERDAY ,
   ALT / AST:91/266    ELEVATED AND RISING , Alk Phos / T Bili:150/9.1
   TBILI RISING , Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:313 mg/dL, Lactic
   Acid:3.2 mmol/L, Albumin:1.9 g/dL, LDH:435 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.9 mg/dL   ELEVATED
   Fluid analysis / Other labs: Fibrino 313 normal
   Ddimer 8037
   Hapto 106 normal
   Cortisol 6.6 --> 6.5 --> 6.7
   Lactate 3.2  up from 1.9
   free Ca 1.02 low
   UA [**12-28**] with infxn and blood, negative eos
   Imaging: [**12-30**] CXR this am not much changed
   [**12-29**] Abd u/s
   FINDINGS: Limited grayscale ultrasound exam was performed, evaluating
   the four abdominal quadrants for the presence of ascites. A moderate
   amount of ascites fluid is noted, with the largest pocket in the right
   lower quadrant.  A small amount of perihepatic ascites is noted. The
   visualized contour of the liver appears nodular consistent with the
   provided history of cirrhosis.  Presumed gallbladder sludge is not
   completely imaged.
   IMPRESSIONS: Moderate amount of ascites, with the largest pocket in the
   right lower quadrant.
   Microbiology: [**12-28**] BAL stains from RML and LLL negative, Cx pending
   viral Ag screen negative, Cx pending
   BCx x2
   negative for influenza by DFA
   Legionella Urine Ag negative
   Urine GNR's ~1000 colonies
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Ms. [**Known lastname 10198**] is a 51 year old female with HCV cirrhosis who was
   transferred from an OSH after presenting with cough, HA,
   encephalopathy, and fever for 3 days with a hospital course complicated
   by hypotension requiring peripheral dopamine and hypoxia. Her overall
   picture is concerning for an influenza type picture, although she has a
   negative DFA, or a bacterial PNA, or both.
   # Hypoxic respiratory failure: Given CXR demonstrating bilateraly
   patchy infiltrates as well as her history of cough, fever, and sore
   throat for 2-3 weeks, symptoms are concerning either for influenza or a
   post-influenza bacterial pneumonia.  She currently meets criteria for
   ARDS with a P:F <100, bilateral infiltrates, and no CHF. Other
   potential etiologies include IIPs including AEP and AIP, although less
   likely in setting of viral prodrome.
   - Ventilate with volume-cycled AC at ARDSnet settings.
   - Will try to wean her down of FiO2 first today
   - If she doesn
t improve tomorrow, consider doing esophageal balloon
   tomorrow to evaluate a good PEEP for her
   - f/u Sputum, BAL, blood and urine cultures for source of sepsis
   - Vanco/Zosyn/Cipro for HAP PNA coverage empirically, given unclear
   history of antibiotics and recent admissions, as well as the fact that
   the patient is a hospital SW.
   - Influenza is negative, will stop Tamiflu
   - Keep her in reverse Trendelberg
   - Albuterol/Ipratropium prn
   # Severe sepsis: Hypoxia and hypotension concerning for infectious
   process with criteria sufficient for SIRS/sepsis given leukocytosis and
   tachypnea.  Potential infectious sources include bacterial pneumonia or
   influenza as above. Alternative infectious sources include SBP or
   urosepsis.
   - f/u pan-culture including blood, urine, sputum, influenza sputum.
   - consider tapping her ascites seen on abd u/s
   - will get bladder pressure today to evaluate for intra-abdominal
   pressure
   - if she doesn't improve would consider further imaging (CT torso) but
   not thought to be high yield
   - ABx as above
   - watch UOP and lactate through the day --> UOP meeting goal of 50cc/hr
   this morning
   - Has started Hydrocortisone for poor cortisol stimulation test
   - Continue pressors and try to wean Levo first, then Vasopressin,
   however if she continues to be hypoNa then would stop ADH first
   # Acute renal failure: Differential includes pre-renal azotemia, ATN,
   or HRS.  Given hypotension, likely secondary to inadequate perfusion.
   FeNa 0.2 and PFI 0.3 so likely prerenal.  No EOS on smear so not likely
   AIN
   - Continue to follow UOP and Cr.  Our goal of UOP is 50cc/hour
   - If volume resuscitation needed today would go with NS boluses
   # Liver disease: Patient with MELD 29 HCV cirrhosis with acute
   decompensation, likely in setting of sepsis and ARDS. LFT's are rising
   this am, albumin is low
   - f/u Hepatology recs
   - Start lactulose
   # Hyponatremia: Likely due to hypovolemia in setting of SIRS, and then
   got 2L D5W with bicarb
   - Repeat Na this pm
   - Volume resuscitation as above
   - If Na continues to be low, would wean the Vasopressin before the
   Levophed
   # Thrombocytopenia/anemia/coagulopathy: Patient with thrombocytopenia,
   anemia, and coagulopathy.  Chronic thrombocytopenia likely secondary to
   portal hypertension and splenic sequestration, although current
   platelet count worse that baseline. Coagulopathy and anemia could also
   be secondary to worsening HCV cirrhosis. DIC was considered, but labs
   are not consistent with this etiology.   Anemia could also be secondary
   to bleeding. MCV is also elevated. Three point Hct drop over yesterday,
   and INR rising through yesterday.
   - Hct this pm
   - folate and B12 for elevated MCV
   - Trend platelets, transfuse for plt<10 or <50 if signs of bleeding.
   - DIC and hemolysis labs --> add on fractionation of Tbili to this am's
   labs
   - Guaiac stools, OGT suctioning to assess for blood
   # Leukocytosis: Likely due to infectious process.
   - Trend WBC
   # Hyperglycemia: Likely due to 2L of D5W she received today. Ordered
   for qid fingersticks, but no insulin.
   - Repeat fingerstick and would consider starting insulin if
   persistently elevated.
   FEN: tube feeds, replete as necessary, IVF as above.
   PPx: SCDs, Pepcid
   Access: RIJ CVL, PIV (18, 20g), arterial line
   Code: Full (confirmed)
   Communication: [**Known lastname **],[**Name (NI) **] (husband) [**Telephone/Fax (5) 10199**]
   Disposition: ICU level of care

2159-12-30 09:49:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2159-12-29**] 12:00 PM
   abdominal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2159-12-29**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-12-30**] 06:16 AM
   Vancomycin - [**2159-12-30**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-12-29**] 09:00 PM
   Fentanyl - [**2159-12-30**] 03:37 AM
   Midazolam (Versed) - [**2159-12-30**] 03:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-12-30**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.1
   HR: 89 (89 - 112) bpm
   BP: 90/51(67) {90/51(67) - 109/65(83)} mmHg
   RR: 30 (17 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 7 (7 - 15)mmHg
   Total In:
                                                                  3,399 mL
                                                                  1,671 mL
   PO:
   TF:
                                                                     55 mL
   IVF:
                                                                  3,084 mL
                                                                  1,631 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    480 mL
   Urine:
                                                                    805 mL
                                                                    480 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,344 mL
                                                                  1,191 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 17 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   SpO2: 97%
   ABG: 7.37/46/118/26/1
   Ve: 10.1 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   41 K/uL
   314 mg/dL
   2.2 mg/dL
   26 mEq/L
   4.2 mEq/L
   51 mg/dL
   95 mEq/L
   129 mEq/L
   27.9 %
   19.7 K/uL
        [image002.jpg]
                            [**2159-12-29**]  04:50 AM
                            [**2159-12-29**]  05:41 AM
                            [**2159-12-29**]  12:08 PM
                            [**2159-12-29**]  03:30 PM
                            [**2159-12-29**]  05:16 PM
                            [**2159-12-29**]  10:15 PM
                            [**2159-12-30**]  03:11 AM
                            [**2159-12-30**]  03:27 AM
                            [**2159-12-30**]  04:34 AM
                            [**2159-12-30**]  06:20 AM
   WBC
   25.8
   19.7
   Hct
   30.9
   27.9
   Plt
   50
   41
   Cr
   2.3
   2.2
   TCO2
   19
   20
   24
   22
   24
   30
   28
   28
   Glucose
   91
   314
   Other labs: PT / PTT / INR:24.0/46.2/2.3, ALT / AST:91/266, Alk Phos /
   T Bili:150/9.1, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:313 mg/dL, Lactic
   Acid:3.2 mmol/L, Albumin:1.9 g/dL, LDH:435 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-12-28**] 05:00 PM
   18 Gauge - [**2159-12-28**] 05:00 PM
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Critical Care Attending:
   Metavision system lost my note (remnants above). Essentials of note
   restated below (see intern/residen note for greater details).
   ACTH stimulation abnormal; hyrdrocortisone started.  Creat has been
   stable at 2.2.  Patient continues on high PEEP and FIO2=0.6.  Coming
   down slowly on dose of levophed. Serum Na under 130.
   On exam: patient intubated and sedated.  Chest clear anterior and
   lateral lung fields. Heart sounds soft. No gallop or murmur. Abdomen
   soft. No tenderness.
   IMP:
   Acute respiratory failure
   Acute renal failure
   Hyponatremia
   Hypotension
   Hemodynamics slightly improved. Continue on vasopressin and levophed.
   Addition of hydrocortisone for apparent adrenal insufficiency. [**Month (only) 8**] have
   to stop vasopressin if serum Na continues to fall. Mix all meds in NS
   if possible. Will try to decrease FIO2 today. If we can get it down to
   50%, consider drop in PEEP. Plateau pressures remain less than 30.
   Consider esophageal balloon tomorrow to assess pleural pressures.
   Renal function may be stabilizing. Electrolytes and acid base status
   acceptable.
   Critical Care: 40 mins.
   ------ Protected Section Addendum Entered By:[**Name (NI) 214**] [**Last Name (NamePattern1) **], MD
   on:[**2159-12-30**] 16:27 ------

2159-12-31 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   - O2 trending down so increased PEEP to 17, FiO2 still 80%, put in
   reverse Tberg, and getting CXR
   - DFA negative so d/c'd tamiflu
   - continuing vanc, zosyn, cipro empirically for now
   - clinically improving so holding on doing para
   - patient not have BMs and with increased gastric residuals.  KUB w/o
   signs of obstruction.  Gave dulcolax suppository w/o success.  Patient
   tenuous when lying on side, so did not get PR lactulose.
   - bladder pressure decreased to 11.
   - 3pm labs stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-12-30**] 08:00 AM
   Ciprofloxacin - [**2159-12-30**] 10:33 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-12-31**] 05:11 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2159-12-30**] 02:15 PM
   Famotidine (Pepcid) - [**2159-12-31**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-12-31**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 72 (72 - 94) bpm
   BP: 96/63(77) {87/51(67) - 133/69(94)} mmHg
   RR: 30 (29 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 6 (6 - 16)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  2,758 mL
                                                                    334 mL
   PO:
   TF:
   IVF:
                                                                  2,618 mL
                                                                    334 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,700 mL
                                                                    545 mL
   Urine:
                                                                  1,310 mL
                                                                    445 mL
   NG:
                                                                    390 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,058 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube, Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 94%
   ABG: 7.46/40/81.[**Numeric Identifier 252**]/26/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Gen: Intubated and sedated
   Eyes: Sclera icteric; pupils pinpoint and reactive to light
   Chest: BS coarse b/l but no rhonchi or wheeze
   Heart: NRRR; no murmurs
   Abdomen: Distended, BS present
   Ext: 1+ edema, warm and well-perfused
   Labs / Radiology
   45 K/uL
   9.4 g/dL
   125 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.6 mEq/L
   59 mg/dL
   98 mEq/L
   133 mEq/L
   27.5 %
   15.9 K/uL
        [image002.jpg]
                            [**2159-12-30**]  03:11 AM
                            [**2159-12-30**]  03:27 AM
                            [**2159-12-30**]  04:34 AM
                            [**2159-12-30**]  06:20 AM
                            [**2159-12-30**]  12:36 PM
                            [**2159-12-30**]  03:06 PM
                            [**2159-12-30**]  03:16 PM
                            [**2159-12-30**]  06:06 PM
                            [**2159-12-31**]  03:53 AM
                            [**2159-12-31**]  04:16 AM
   WBC
   19.7
   20.9
   15.9
   Hct
   27.9
   28.3
   27.5
   Plt
   41
   49
   45
   Cr
   2.2
   1.8
   1.5
   TCO2
   30
   28
   28
   28
   28
   27
   29
   Glucose
   [**Telephone/Fax (3) 10253**]
   Other labs: PT / PTT / INR:27.5/47.3/2.7, ALT / AST:87/276, Alk Phos /
   T Bili:156/12.6, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:253 mg/dL, Lactic
   Acid:3.4 mmol/L, Albumin:1.9 g/dL, LDH:459 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.8 mg/dL, PO4:5.0 mg/dL
   Imaging: KUB [**2159-12-30**]
   IMPRESSION: Nonspecific air-fluid levels with no definite evidence for
   bowel
   obstruction. Obscuration of soft tissue shadows consistent with
   ascites.
    CXR [**2159-12-30**]
   One upright portable view. Patchy bilateral parenchymal consolidation
   is
   again demonstrated. The heart and mediastinal structures are unchanged.
   An
   endotracheal tube, nasogastric tube and right internal jugular catheter
   remain
   in place.
   Microbiology: All cultures NTD
   Assessment and Plan
   Ms. [**Known lastname 10198**] is a 51 year old female with HCV cirrhosis who was
   transferred from an OSH after presenting with cough, HA,
   encephalopathy, and fever for 3 days with a hospital course complicated
   by hypotension requiring peripheral dopamine and hypoxia. Her overall
   picture is concerning for an influenza type picture, although she has a
   negative DFA, or a bacterial PNA, or both.
   .
   # Hypoxic respiratory failure: Given CXR demonstrating bilateraly
   patchy infiltrates as well as her history of cough, fever, and sore
   throat for 2-3 weeks, symptoms are concerning either for influenza or a
   post-influenza bacterial pneumonia.  She currently meets criteria for
   ARDS with a P:F <100, bilateral infiltrates, and no CHF. Other
   potential etiologies include IIPs including AEP and AIP, although less
   likely in setting of viral prodrome.
   - Ventilate with volume-cycled AC at ARDSnet settings.
   - Will try to wean her PEEP today
   - If she doesn
t improve tomorrow, consider doing esophageal balloon
   tomorrow to evaluate a good PEEP for her
   - f/u Sputum, BAL, blood and urine cultures for source of sepsis
   - Vanco/Zosyn/Cipro for HAP PNA coverage empirically, given unclear
   history of antibiotics and recent admissions, as well as the fact that
   the patient is a hospital SW.
   - Influenza is negative, stopped Tamiflu
   - Keep her in reverse Trendelberg
   - Albuterol/Ipratropium prn
   - consider diuresis this afternoon.
   .
   # Severe sepsis: Hypoxia and hypotension concerning for infectious
   process with criteria sufficient for SIRS/sepsis given leukocytosis and
   tachypnea.  Potential infectious sources include bacterial pneumonia or
   influenza as above. Alternative infectious sources include SBP or
   urosepsis.
   - f/u pan-culture including blood, urine, sputum, influenza sputum.
   - consider tapping her ascites seen on abd u/s
   - will get bladder pressure today to evaluate for intra-abdominal
   pressure
   - if she doesn't improve would consider further imaging (CT torso) but
   not thought to be high yield
   - ABx as above
   - watch UOP and lactate through the day --> UOP meeting goal of 50cc/hr
   this morning
   - Has started Hydrocortisone for poor cortisol stimulation test
   - Continue pressors and try to wean Levo first, then Vasopressin,
   however if she continues to be hypoNa then would stop ADH first
   .
   # Acute renal failure: Differential includes pre-renal azotemia, ATN,
   or HRS.  Given hypotension, likely secondary to inadequate perfusion.
   FeNa 0.2 and PFI 0.3 so likely prerenal.  No EOS on smear so not likely
   AIN
   - Continue to follow UOP and Cr.  Our goal of UOP is 50cc/hour
   - If volume resuscitation needed today would go with NS boluses
   .
   # Liver disease: Patient with MELD 29 HCV cirrhosis with acute
   decompensation, likely in setting of sepsis and ARDS. LFT's are rising
   this am, albumin is low
   - f/u Hepatology recs
   - Start lactulose
   .
   # Hyponatremia: Likely due to hypovolemia in setting of SIRS, and then
   got 2L D5W with bicarb
   - Repeat Na this pm
   - Volume resuscitation as above
   - If Na continues to be low, would wean the Vasopressin before the
   Levophed
   .
   # Thrombocytopenia/anemia/coagulopathy: Patient with thrombocytopenia,
   anemia, and coagulopathy.  Chronic thrombocytopenia likely secondary to
   portal hypertension and splenic sequestration, although current
   platelet count worse that baseline. Coagulopathy and anemia could also
   be secondary to worsening HCV cirrhosis. DIC was considered, but labs
   are not consistent with this etiology.   Anemia could also be secondary
   to bleeding. MCV is also elevated. Three point Hct drop over yesterday,
   and INR rising through yesterday.
   - Hct this pm
   - folate and B12 for elevated MCV
   - Trend platelets, transfuse for plt<10 or <50 if signs of bleeding.
   - DIC and hemolysis labs --> add on fractionation of Tbili to this am's
   labs
   - Guaiac stools, OGT suctioning to assess for blood
   .
   # Hyperglycemia: Likely due to 2L of D5W she received today. Ordered
   for qid fingersticks, but no insulin.
   - Rept fingerstick and would consider starting insulin if persistently
   elevated.
   .
   FEN: stop tube feeds, replete as necessary, IVF as above.
   PPx: SCDs, Pepcid
   Access: RIJ CVL, PIV (18, 20g), arterial line
   Code: Full (confirmed)
   Communication: [**Known lastname **],[**Name (NI) **] (husband) [**Telephone/Fax (5) 10199**]
   Disposition: ICU level of care

2159-12-31 13:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51yo women with HCV cirrhosis, PNA, ARDS, no definate bug, but c/w
   influenza or influenza with
   superinfection
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2159-12-30**] 10:33 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-12-31**] 05:11 AM
   Vancomycin - [**2159-12-31**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 6 mg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2159-12-30**] 02:15 PM
   Famotidine (Pepcid) - [**2159-12-31**] 08:00 AM
   Other medications:
   chlorhex
   lactulose
   albuterol/atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-12-31**] 01:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 81 (71 - 89) bpm
   BP: 110/63(82) {83/51(65) - 133/69(94)} mmHg
   RR: 30 (29 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 6 (6 - 16)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
                                Total In:
                                                                  2,758 mL
                                                                    717 mL
   PO:
                                TF:
   IVF:
                                                                  2,618 mL
                                                                    717 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,700 mL
                                                                    905 mL
   Urine:
                                                                  1,310 mL
                                                                    705 mL
   NG:
                                                                    390 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,058 mL
                                                                   -187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.46/40/81.[**Numeric Identifier 252**]/26/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   45 K/uL
   125 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.6 mEq/L
   59 mg/dL
   98 mEq/L
   133 mEq/L
   27.5 %
   15.9 K/uL
        [image002.jpg]
                            [**2159-12-30**]  03:11 AM
                            [**2159-12-30**]  03:27 AM
                            [**2159-12-30**]  04:34 AM
                            [**2159-12-30**]  06:20 AM
                            [**2159-12-30**]  12:36 PM
                            [**2159-12-30**]  03:06 PM
                            [**2159-12-30**]  03:16 PM
                            [**2159-12-30**]  06:06 PM
                            [**2159-12-31**]  03:53 AM
                            [**2159-12-31**]  04:16 AM
   WBC
   19.7
   20.9
   15.9
   Hct
   27.9
   28.3
   27.5
   Plt
   41
   49
   45
   Cr
   2.2
   1.8
   1.5
   TCO2
   30
   28
   28
   28
   28
   27
   29
   Glucose
   [**Telephone/Fax (3) 10253**]
   Other labs: PT / PTT / INR:27.5/47.3/2.7, ALT / AST:87/276, Alk Phos /
   T Bili:156/12.6, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:253 mg/dL, Lactic
   Acid:3.4 mmol/L, Albumin:1.9 g/dL, LDH:459 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.8 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Respiratory failure:  steady improvement.  Continue vanco/zosyn/cipro
   empiric therapy.
   abdominal distension:  most likely ileus, start reglan
   sepsis/HOTN:  failed [**Last Name (un) **] stim test, now on hydrocort.
   try and wean pressors.
   hyponatremia:  had evidence of hypovolemia originally.  [**Month (only) 8**] also be due
   to lung process.
   acute renal failure: improving renal function
   is also grossly fluid overloaded
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-12-28**] 05:00 PM
   18 Gauge - [**2159-12-28**] 05:00 PM
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2160-01-01 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS and liver disease
   24 Hour Events:
   - PEEP weaned to 8
   - standing reglan and PR bisacodyl with no BM this evening still
   - family meeting went well
   - PO2 was 65 on PEEP 8, so went back up to 10 at 6am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-12-31**] 08:00 AM
   Ciprofloxacin - [**2159-12-31**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-1**] 06:05 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-12-31**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-1**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (71 - 83) bpm
   BP: 109/62(82) {83/50(65) - 116/67(88)} mmHg
   RR: 23 (23 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 8 (3 - 16)mmHg
   Total In:
                                                                  1,434 mL
                                                                    217 mL
   PO:
   TF:
                                                                     38 mL
                                                                     11 mL
   IVF:
                                                                  1,306 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    650 mL
   Urine:
                                                                  1,470 mL
                                                                    650 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -236 mL
                                                                   -433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 94%
   ABG: 7.48/40/65/27/5
   Ve: 10.3 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Gen: Intubated and sedated
   Eyes: sclera icteric; pupils pinpoint and reactive to light
   Lungs: coarse BS b/l
   Heart: NRRR; no murmurs
   Abdomen: soft; hypoactive BS
   Ext: [**2-2**]+ edema, warm and well perfused.
   Labs / Radiology
   42 K/uL
   9.7 g/dL
   139 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.1 mEq/L
   70 mg/dL
   100 mEq/L
   136 mEq/L
   27.9 %
   11.8 K/uL
        [image002.jpg]
                            [**2159-12-30**]  12:36 PM
                            [**2159-12-30**]  03:06 PM
                            [**2159-12-30**]  03:16 PM
                            [**2159-12-30**]  06:06 PM
                            [**2159-12-31**]  03:53 AM
                            [**2159-12-31**]  04:16 AM
                            [**2159-12-31**]  02:18 PM
                            [**2159-12-31**]  09:03 PM
                             [**2160-1-1**]  03:39 AM
                             [**2160-1-1**]  04:08 AM
   WBC
   20.9
   15.9
   11.8
   Hct
   28.3
   27.5
   27.9
   Plt
   49
   45
   42
   Cr
   1.8
   1.5
   1.2
   TCO2
   28
   28
   27
   29
   29
   30
   31
   Glucose
   138
   125
   139
   Other labs: PT / PTT / INR:26.8/44.7/2.6, ALT / AST:95/277, Alk Phos /
   T Bili:150/14.5, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:253 mg/dL, Lactic
   Acid:3.4 mmol/L, Albumin:1.9 g/dL, LDH:352 IU/L, Ca++:8.5 mg/dL,
   Mg++:3.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 10198**] is a 51 year old female with HCV cirrhosis who was
   transferred from an OSH after presenting with cough, HA,
   encephalopathy, and fever for 3 days with a hospital course complicated
   by hypotension requiring peripheral dopamine and hypoxia. Her overall
   picture is concerning for an influenza type picture, although she has a
   negative DFA, or a bacterial PNA, or both.
   .
   # Hypoxic respiratory failure: Given CXR demonstrating bilateraly
   patchy infiltrates as well as her history of cough, fever, and sore
   throat for 2-3 weeks, symptoms are concerning either for influenza or a
   post-influenza bacterial pneumonia.  She currently meets criteria for
   ARDS with a P:F <100, bilateral infiltrates, and no CHF. Other
   potential etiologies include IIPs including AEP and AIP, although less
   likely in setting of viral prodrome.
   - Ventilate with volume-cycled AC at ARDSnet settings.
   - PEEP weaned to 8 and now back to 10 because of low O2.  Will attempt
   to wean FiO2 to 40% and PEEP to 8 again.
   - If she doesn
t improve tomorrow, consider doing esophageal balloon
   tomorrow to evaluate a good PEEP for her
   - f/u Sputum, BAL, blood and urine cultures for source of sepsis
   - Vanco/Zosyn/Cipro for HAP PNA coverage empirically, given unclear
   history of antibiotics and recent admissions, as well as the fact that
   the patient is a hospital SW.
   - Keep her in reverse Trendelberg
   - Albuterol/Ipratropium prn
   - consider diuresis this afternoon.
   .
   # Severe sepsis: Hypoxia and hypotension concerning for infectious
   process with criteria sufficient for SIRS/sepsis given leukocytosis and
   tachypnea.  Potential infectious sources include bacterial pneumonia or
   influenza as above. Alternative infectious sources include SBP or
   urosepsis.
   - f/u pan-culture including blood, urine, sputum, influenza sputum.
   - consider tapping her ascites seen on abd u/s
   - if she doesn't improve would consider further imaging (CT torso) but
   not thought to be high yield
   - ABx as above
   - watch UOP and lactate through the day --> UOP meeting goal of 50cc/hr
   this morning
   - Has started Hydrocortisone for poor cortisol stimulation test
   - Continue pressors and try to wean Levo first, then Vasopressin,
   however if she continues to be hypoNa then would stop ADH first
   .
   # Acute renal failure: Differential includes pre-renal azotemia, ATN,
   or HRS.  Given hypotension, likely secondary to inadequate perfusion.
   FeNa 0.2 and PFI 0.3 so likely prerenal.  No EOS on smear so not likely
   AIN
   - Continue to follow UOP and Cr.  Our goal of UOP is 50cc/hour
   - If volume resuscitation needed today would go with NS boluses
   .
   # Liver disease: Patient with MELD 29 HCV cirrhosis with acute
   decompensation, likely in setting of sepsis and ARDS. LFT's are rising
   this am, albumin is low
   - f/u Hepatology recs
   - lactulose
   .
   # Hyponatremia: Likely due to hypovolemia in setting of SIRS, and then
   got 2L D5W with bicarb
   - Repeat Na this pm
   - Volume resuscitation as above
   - If Na continues to be low, would wean the Vasopressin before the
   Levophed
   .
   # Thrombocytopenia/anemia/coagulopathy: Patient with thrombocytopenia,
   anemia, and coagulopathy.  Chronic thrombocytopenia likely secondary to
   portal hypertension and splenic sequestration, although current
   platelet count worse that baseline. Coagulopathy and anemia could also
   be secondary to worsening HCV cirrhosis. DIC was considered, but labs
   are not consistent with this etiology.   Anemia could also be secondary
   to bleeding. MCV is also elevated. Three point Hct drop over yesterday,
   and INR rising through yesterday.
   - folate and B12 for elevated MCV when tolerating tube feeds
   - Trend blood counts
   - DIC and hemolysis labs --> add on fractionation of Tbili to this am's
   labs
   - Guaiac stools, OGT suctioning to assess for blood
   .
   # Hyperglycemia: Likely due to 2L of D5W she received today. Ordered
   for qid fingersticks, but no insulin.
   - Rept fingerstick and would consider starting insulin if persistently
   elevated.
   .
   FEN: stopped tube feeds, replete as necessary, IVF as above.
   PPx: SCDs, Pepcid
   Access: RIJ CVL, PIV (18, 20g), arterial line
   Code: Full (confirmed)
   Communication: [**Known lastname **],[**Name (NI) **] (husband) [**Telephone/Fax (1) 10199**]
   Disposition: ICU level of care

2160-01-01 10:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo women with HCV cirrhosis, admitted w/ PNA/ARDS, likely
   influenza.  Improving.  Has weaned
   off pressors.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-12-31**] 08:00 AM
   Ciprofloxacin - [**2159-12-31**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-1**] 06:05 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-12-31**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-1**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 71 (71 - 83) bpm
   BP: 106/59(78) {83/50(65) - 116/67(88)} mmHg
   RR: 30 (23 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 8 (3 - 16)mmHg
   Total In:
                                                                  1,434 mL
                                                                    267 mL
   PO:
   TF:
                                                                     38 mL
                                                                     25 mL
   IVF:
                                                                  1,306 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    860 mL
   Urine:
                                                                  1,470 mL
                                                                    860 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -236 mL
                                                                   -593 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 25.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.48/40/65/27/5
   Ve: 10.4 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   42 K/uL
   139 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.1 mEq/L
   70 mg/dL
   100 mEq/L
   136 mEq/L
   27.9 %
   11.8 K/uL
        [image002.jpg]
                            [**2159-12-30**]  12:36 PM
                            [**2159-12-30**]  03:06 PM
                            [**2159-12-30**]  03:16 PM
                            [**2159-12-30**]  06:06 PM
                            [**2159-12-31**]  03:53 AM
                            [**2159-12-31**]  04:16 AM
                            [**2159-12-31**]  02:18 PM
                            [**2159-12-31**]  09:03 PM
                             [**2160-1-1**]  03:39 AM
                             [**2160-1-1**]  04:08 AM
   WBC
   20.9
   15.9
   11.8
   Hct
   28.3
   27.5
   27.9
   Plt
   49
   45
   42
   Cr
   1.8
   1.5
   1.2
   TCO2
   28
   28
   27
   29
   29
   30
   31
   Glucose
   138
   125
   139
   Other labs: PT / PTT / INR:26.8/44.7/2.6, ALT / AST:95/277, Alk Phos /
   T Bili:150/14.5, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:253 mg/dL, Lactic
   Acid:3.4 mmol/L, Albumin:1.9 g/dL, LDH:352 IU/L, Ca++:8.5 mg/dL,
   Mg++:3.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Respiratory failure:  PNA/ARDS.  Improving.  PEEP has been weaned down.
   Acute renal failure:  Renal function improved.  Now producing good
   urine.
   cirrhosis:  stable ascites
   septic shock:  off pressors, on hydrocort.
   ID:  continue vanco/zosyn/cipro
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2160-1-1**] 08:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-12-28**] 05:00 PM
   18 Gauge - [**2159-12-28**] 05:00 PM
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2160-01-02 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Sedation off
   - Goal -1L - met
   - attempting to re-start tube feeds.  d/c'ed free water flushes.
   - lactulose given
   - Urine lytes ordered to w/u for hepatorenal
   - Cr improved this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-1**] 10:00 AM
   Ciprofloxacin - [**2160-1-1**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-2**] 06:21 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-1-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-2**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 85 (71 - 95) bpm
   BP: 111/59(81) {103/53(73) - 128/75(97)} mmHg
   RR: 30 (24 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 2 (2 - 12)mmHg
   Total In:
                                                                  1,076 mL
                                                                  1,283 mL
   PO:
   TF:
                                                                     87 mL
   IVF:
                                                                    890 mL
                                                                  1,223 mL
   Blood products:
   Total out:
                                                                  2,860 mL
                                                                  1,725 mL
   Urine:
                                                                  2,060 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,784 mL
                                                                   -442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   Compliance: 94.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.49/40/92.[**Numeric Identifier 491**]/31/6
   Ve: 9.7 L/min
   PaO2 / FiO2: 186
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   38 K/uL
   10.1 g/dL
   113 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.6 mEq/L
   62 mg/dL
   107 mEq/L
   144 mEq/L
   30.3 %
   16.4 K/uL
        [image002.jpg]
                            [**2159-12-31**]  04:16 AM
                            [**2159-12-31**]  02:18 PM
                            [**2159-12-31**]  09:03 PM
                             [**2160-1-1**]  03:39 AM
                             [**2160-1-1**]  04:08 AM
                             [**2160-1-1**]  03:56 PM
                             [**2160-1-1**]  04:39 PM
                             [**2160-1-2**]  02:57 AM
                             [**2160-1-2**]  03:19 AM
                             [**2160-1-2**]  06:36 AM
   WBC
   11.8
   16.4
   Hct
   27.9
   30.3
   Plt
   42
   38
   Cr
   1.2
   1.4
   1.0
   TCO2
   29
   29
   30
   31
   31
   34
   31
   Glucose
   139
   100
   113
   Other labs: PT / PTT / INR:26.4/43.3/2.6, ALT / AST:87/242, Alk Phos /
   T Bili:138/14.3, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:253 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.9 g/dL, LDH:308 IU/L, Ca++:8.4 mg/dL,
   Mg++:3.1 mg/dL, PO4:3.2 mg/dL
   CXR: improved lucency of parenchyma
   Micro:
[**12-28**] Urine culture - URINE CULTURE (Final [**2159-12-29**]):
         GRAM NEGATIVE ROD(S).    ~1000/ML.
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Ms. [**Known lastname 10198**] is a 51 year old female with HCV cirrhosis who was
   transferred from an OSH after presenting with cough, HA,
   encephalopathy, and fever for 3 days with a hospital course complicated
   by hypotension requiring peripheral dopamine and hypoxia. Her overall
   picture is concerning for an influenza type picture, although she has a
   negative DFA, or a bacterial PNA, or both.
   .
   # Hypoxic respiratory failure: Given CXR demonstrating bilateraly
   patchy infiltrates as well as her history of cough, fever, and sore
   throat for 2-3 weeks, symptoms are concerning either for influenza or a
   post-influenza bacterial pneumonia.  She currently meets criteria for
   ARDS with a P:F <100, bilateral infiltrates, and no CHF. Other
   potential etiologies include IIPs including AEP and AIP, although less
   likely in setting of viral prodrome.
   - Ventilate with volume-cycled AC at ARDSnet settings.
   - PEEP weaned to 8 and now back to 10 because of low O2.  Will attempt
   to wean FiO2 to 40% and PEEP to 8 again.
   - If she doesn
t improve tomorrow, consider doing esophageal balloon
   tomorrow to evaluate a good PEEP for her
   - f/u Sputum, BAL, blood and urine cultures for source of sepsis
   - Vanco/Zosyn/Cipro for HAP PNA coverage empirically, given unclear
   history of antibiotics and recent admissions, as well as the fact that
   the patient is a hospital SW.
   - Keep her in reverse Trendelberg
   - Albuterol/Ipratropium prn
   - hold on diuresis this afternoon.
   .
   # Severe sepsis: Hypoxia and hypotension concerning for infectious
   process with criteria sufficient for SIRS/sepsis given leukocytosis and
   tachypnea.  Potential infectious sources include bacterial pneumonia or
   influenza as above. Alternative infectious sources include SBP or
   urosepsis.
   - f/u pan-culture including blood, urine, sputum, influenza sputum.
   - consider tapping her ascites seen on abd u/s
   - if she doesn't improve would consider further imaging (CT torso) but
   not thought to be high yield
   - ABx as above
   - watch UOP and lactate through the day --> UOP meeting goal of 50cc/hr
   this morning
   - Has started Hydrocortisone for poor cortisol stimulation test
   - Continue pressors and try to wean Levo first, then Vasopressin,
   however if she continues to be hypoNa then would stop ADH first
   .
   # Acute renal failure: Differential includes pre-renal azotemia, ATN,
   or HRS.  Given hypotension, likely secondary to inadequate perfusion.
   FeNa 0.2 and PFI 0.3 so likely prerenal.  No EOS on smear so not likely
   AIN
   - Continue to follow UOP and Cr.  Our goal of UOP is 50cc/hour
   - If volume resuscitation needed today would go with NS boluses
   .
   # Liver disease: Patient with MELD 29 HCV cirrhosis with acute
   decompensation, likely in setting of sepsis and ARDS. LFT's are rising
   this am, albumin is low
   - f/u Hepatology recs
   - lactulose
   .
   # Hyponatremia: Likely due to hypovolemia in setting of SIRS, and then
   got 2L D5W with bicarb
   - Repeat Na this pm
   - Volume resuscitation as above
   - If Na continues to be low, would wean the Vasopressin before the
   Levophed
   .
   # Thrombocytopenia/anemia/coagulopathy: Patient with thrombocytopenia,
   anemia, and coagulopathy.  Chronic thrombocytopenia likely secondary to
   portal hypertension and splenic sequestration, although current
   platelet count worse that baseline. Coagulopathy and anemia could also
   be secondary to worsening HCV cirrhosis. DIC was considered, but labs
   are not consistent with this etiology.   Anemia could also be secondary
   to bleeding. MCV is also elevated. Three point Hct drop over yesterday,
   and INR rising through yesterday.
   - folate and B12 for elevated MCV when tolerating tube feeds
   - Trend blood counts
   - DIC and hemolysis labs --> add on fractionation of Tbili to this am's
   labs
   - Guaiac stools, OGT suctioning to assess for blood
   .
   # Hyperglycemia: Likely due to 2L of D5W she received today. Ordered
   for qid fingersticks, but no insulin.
   - Rept fingerstick and would consider starting insulin if persistently
   elevated.
   .
   FEN: stopped tube feeds, replete as necessary, IVF as above.
   PPx: SCDs, Pepcid
   Access: RIJ CVL, PIV (18, 20g), arterial line
   Code: Full (confirmed)
   Communication: [**Known lastname **],[**Name (NI) **] (husband) [**Telephone/Fax (1) 10199**]
   Disposition: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-01-02 13:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo women with cirrhosis, PNA/ARDS.  Patient not waking up yet with
   stopping of sedation.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-1-1**] 10:00 PM
   Vancomycin - [**2160-1-2**] 08:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-2**] 12:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-1-2**] 08:15 AM
   Other medications:
   chlorhexidine
   atrovent
   rifaxamin
   reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-2**] 01:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 88 (82 - 95) bpm
   BP: 117/64(85) {103/53(73) - 128/75(97)} mmHg
   RR: 30 (24 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 8 (2 - 12)mmHg
   Total In:
                                                                  1,076 mL
                                                                  1,699 mL
   PO:
   TF:
                                                                     87 mL
   IVF:
                                                                    890 mL
                                                                  1,579 mL
   Blood products:
   Total out:
                                                                  2,860 mL
                                                                  2,295 mL
   Urine:
                                                                  2,060 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,784 mL
                                                                   -596 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 94%
   ABG: 7.49/40/92.[**Numeric Identifier 491**]/31/6
   Ve: 11.1 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   38 K/uL
   113 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.6 mEq/L
   62 mg/dL
   107 mEq/L
   144 mEq/L
   30.3 %
   16.4 K/uL
        [image002.jpg]
                            [**2159-12-31**]  04:16 AM
                            [**2159-12-31**]  02:18 PM
                            [**2159-12-31**]  09:03 PM
                             [**2160-1-1**]  03:39 AM
                             [**2160-1-1**]  04:08 AM
                             [**2160-1-1**]  03:56 PM
                             [**2160-1-1**]  04:39 PM
                             [**2160-1-2**]  02:57 AM
                             [**2160-1-2**]  03:19 AM
                             [**2160-1-2**]  06:36 AM
   WBC
   11.8
   16.4
   Hct
   27.9
   30.3
   Plt
   42
   38
   Cr
   1.2
   1.4
   1.0
   TCO2
   29
   29
   30
   31
   31
   34
   31
   Glucose
   139
   100
   113
   Other labs: PT / PTT / INR:26.4/43.3/2.6, ALT / AST:87/242, Alk Phos /
   T Bili:138/14.3, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:253 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.9 g/dL, LDH:308 IU/L, Ca++:8.4 mg/dL,
   Mg++:3.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Respiratory failure:  wean Peep and FiO2.  To sedated to breath.
   fluid overload:  autodiuresing., but will give lasix to hasten output.
   MS:  likely due to cirrhosis, plus slow clearance of versed/fentanyl.
   continue to hold.  Stop reglan.
   Cirrhosis:  lactulose for encephalopthu
   acute renal failure:  improving.  good urine output.
   coagulopathy: stable.
   ICU Care
   Nutrition:
   Comments: start TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2160-01-03 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - social worker called and says family is unaware about liver status
   and needs to be informed.  There is some denial about her drinking.
   - started tubefeeds
   - sats in lower 90s most of the day
   - ordered vanco trough
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-2**] 08:15 AM
   Ciprofloxacin - [**2160-1-2**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-3**] 12:40 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2160-1-2**] 02:50 PM
   Famotidine (Pepcid) - [**2160-1-2**] 08:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-3**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 88 (83 - 97) bpm
   BP: 136/69(95) {116/63(85) - 154/83(110)} mmHg
   RR: 30 (27 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,322 mL
                                                                    483 mL
   PO:
             TF:
                                                                     92 mL
                                                                    186 mL
   IVF:
                                                                  1,990 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  3,380 mL
                                                                    670 mL
   Urine:
                                                                  2,380 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,058 mL
                                                                   -187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 94%
   ABG: 7.50/41/82.[**Numeric Identifier 253**]/29/7
   Ve: 10.6 L/min
   PaO2 / FiO2: 166
   Physical Examination
   GEN: NAD, minimally responsive to cues (will semi-open her eyes to
   command, but not follow other commands)
   CV: RRR, no m/r/g
   PULM: CTAB
   ABD: +BS, soft, non-tender, mild distention
   EXTR:2+ LE edema b/l, 1+ UE edema
   NEURO: minimally responsive (off sedation)
   SKIN: jaundiced
   Labs / Radiology
   52 K/uL
   10.4 g/dL
   144 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.8 mEq/L
   65 mg/dL
   111 mEq/L
   148 mEq/L
   30.6 %
   13.3 K/uL
        [image002.jpg]
                             [**2160-1-1**]  03:39 AM
                             [**2160-1-1**]  04:08 AM
                             [**2160-1-1**]  03:56 PM
                             [**2160-1-1**]  04:39 PM
                             [**2160-1-2**]  02:57 AM
                             [**2160-1-2**]  03:19 AM
                             [**2160-1-2**]  06:36 AM
                             [**2160-1-2**]  05:50 PM
                             [**2160-1-3**]  02:30 AM
                             [**2160-1-3**]  02:42 AM
   WBC
   11.8
   16.4
   13.3
   Hct
   27.9
   30.3
   30.6
   Plt
   42
   38
   52
   Cr
   1.2
   1.4
   1.0
   0.9
   TCO2
   31
   31
   34
   31
   33
   33
   Glucose
   139
   100
   113
   144
   Other labs: PT / PTT / INR:26.4/43.3/2.6, ALT / AST:87/242, Alk Phos /
   T Bili:138/14.3, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:253 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.9 g/dL, LDH:308 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.8 mg/dL, PO4:3.6 mg/dL
   Vanco trough pending.
   No new micro data.
   CXR today:
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Ms. [**Known lastname 10198**] is a 51 year old female with HCV cirrhosis who was
   transferred from an OSH after presenting with cough, HA,
   encephalopathy, and fever for 3 days with a hospital course complicated
   by hypotension requiring peripheral dopamine and hypoxia. Her overall
   picture is concerning for an influenza type picture, although she has a
   negative DFA, or a bacterial PNA, or both.
   .
   # Hypoxic respiratory failure: Given CXR demonstrating bilateraly
   patchy infiltrates as well as her history of cough, fever, and sore
   throat for 2-3 weeks, symptoms are concerning either for influenza or a
   post-influenza bacterial pneumonia.  She currently meets criteria for
   ARDS with a P:F <100, bilateral infiltrates, and no CHF. Other
   potential etiologies include IIPs including AEP and AIP, although less
   likely in setting of viral prodrome.
   - Ventilate with volume-cycled AC at ARDSnet settings.
   - PEEP weaned to 8 and now back to 10 because of low O2.  Will attempt
   to wean PEEP to 8 again.
   - If she doesn
t improve, consider doing esophageal balloon tomorrow to
   evaluate a good PEEP for her
   - f/u Sputum, BAL, blood and urine cultures for source of sepsis
   - Vanco/Zosyn/Cipro for HAP PNA coverage empirically, given unclear
   history of antibiotics and recent admissions, as well as the fact that
   the patient is a hospital SW.
   - Keep her in reverse Trendelberg
   - Albuterol/Ipratropium prn
   - diurese with goal -500cc to -1L today; give 20IV lasix now
   - f/u SpO2 on ABG to correlate with SpO2 given PaO2 should be given
   higher SpO2 than we are seeing on the monitor
   - monitor mental status, as now off sedation, and need more alert for
   extubation
   .
   # Severe sepsis: Hypoxia and hypotension concerning for infectious
   process with criteria sufficient for SIRS/sepsis given leukocytosis and
   tachypnea.  Potential infectious sources include bacterial pneumonia or
   influenza as above. Alternative infectious sources include SBP or
   urosepsis. Currently off pressors.
   - f/u pan-culture including blood, urine, sputum, influenza sputum.
   - ABx as above
   - watch UOP
   - Continue Hydrocortisone for poor cortisol stimulation test
 wean
   from 50 q6h to 25 q6h.
   .
   # Acute renal failure: Differential includes pre-renal azotemia, ATN,
   or HRS.  Given hypotension, likely secondary to inadequate perfusion.
   FeNa 0.2 and PFI 0.3 so likely prerenal.  No EOS on smear so not likely
   AIN. Cr improved today.
   - Continue to follow UOP and Cr
   - Renally dose all meds for new improved Cr
   - Lasix for diuresis today, as above
   .
   # Liver disease: Patient with MELD 29 HCV cirrhosis with acute
   decompensation, likely in setting of sepsis and ARDS. LFT
s stably
   elevated today.
   - f/u Hepatology recs
   - lactulose (now having BM
   .
   # Thrombocytopenia/anemia/coagulopathy: Patient with thrombocytopenia,
   anemia, and coagulopathy.  Chronic thrombocytopenia likely secondary to
   portal hypertension and splenic sequestration, although current
   platelet count worse that baseline. Coagulopathy and anemia could also
   be secondary to worsening HCV cirrhosis. DIC was considered, but labs
   are not consistent with this etiology.   Anemia could also be secondary
   to bleeding. MCV is also elevated (but normal folate, B12).
   - Hct, plt, coags stable today
   .
   # Hyperglycemia: Likely due to 2L of D5W she received.
   -Resolved
   .
   # Hyponatremia: Likely due to hypovolemia in setting of SIRS, and then
   got 2L D5W with bicarb.
   - resolved, hypernatremic today
   .
   FEN: tube feeds w/free water flushes (for hypernatremia), replete
   electrolytes as necessary, hold IVF today as diuresis goal.
   PPx: Pneumoboots, Pepcid (hold heparin SQ due to thrombocytopenia and
   elevated INR).
   Access: RIJ CVL, arterial line
   Code: Full (confirmed)
   Communication: [**Known lastname **],[**Name (NI) **] (husband) [**Telephone/Fax (5) 10199**]
   Disposition: ICU level of care
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2160-1-2**] 04:49 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-01-03 10:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo women with cirrhosis, respiratory failure, PNA/sepsis.
   Improving.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-2**] 08:15 AM
   Ciprofloxacin - [**2160-1-2**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-3**] 12:40 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2160-1-2**] 02:50 PM
   Famotidine (Pepcid) - [**2160-1-3**] 08:00 AM
   Other medications:
   chlorhexidine
   lactulose
   albuterol
   pepcid
   rifaxamin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-3**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 102 (84 - 102) bpm
   BP: 133/69(93) {116/64(85) - 154/83(110)} mmHg
   RR: 30 (27 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
   CVP: 1 (-1 - 8)mmHg
   Total In:
                                                                  2,322 mL
                                                                    639 mL
   PO:
   TF:
                                                                     92 mL
                                                                    266 mL
   IVF:
                                                                  1,990 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                  3,380 mL
                                                                    810 mL
   Urine:
                                                                  2,380 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,058 mL
                                                                   -171 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.50/41/82.[**Numeric Identifier 253**]/29/7
   Ve: 9.8 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, opens
   eyes slightly to voice
   Labs / Radiology
   10.4 g/dL
   52 K/uL
   144 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.8 mEq/L
   65 mg/dL
   111 mEq/L
   148 mEq/L
   30.6 %
   13.3 K/uL
        [image002.jpg]
                             [**2160-1-1**]  03:39 AM
                             [**2160-1-1**]  04:08 AM
                             [**2160-1-1**]  03:56 PM
                             [**2160-1-1**]  04:39 PM
                             [**2160-1-2**]  02:57 AM
                             [**2160-1-2**]  03:19 AM
                             [**2160-1-2**]  06:36 AM
                             [**2160-1-2**]  05:50 PM
                             [**2160-1-3**]  02:30 AM
                             [**2160-1-3**]  02:42 AM
   WBC
   11.8
   16.4
   13.3
   Hct
   27.9
   30.3
   30.6
   Plt
   42
   38
   52
   Cr
   1.2
   1.4
   1.0
   0.9
   TCO2
   31
   31
   34
   31
   33
   33
   Glucose
   139
   100
   113
   144
   Other labs: PT / PTT / INR:26.4/43.3/2.6, ALT / AST:87/242, Alk Phos /
   T Bili:138/14.3, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:253 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.9 g/dL, LDH:308 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Respiratory failure:  PNA, improving.  Continue to wean Peep and FiO2.
   Pneumonia: continue vanco/zosyn/cipro
   septic shock:  On hydrocort for adrenal insufficiency
   FLuid overload:  continue diuresis.
   Acute renal failure:  improving
   coagulopathy/anemia:  stable
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2160-1-2**] 04:49 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2160-01-04 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2160-1-3**] 04:00 PM.  Broke through Tylenol, packed
   with ice to cool.
 PAN CULTURE - At [**2160-1-3**] 04:00 PM
   - hydrocortisone dose decreased
   - hepatology recs: 50g albumin and vitK to see if coagulopathy d/t
   deficiency
   - agitation- tried Zyprexa
   - patient hypertensive, tachy, and tachypneic during the night.  Tried
   sedation boluses with fent and midaz.  Will have to return to drips if
   patient not able to be extubated.
   - hypernatremic
   - Sedation weaned.  RSBI=64.  SBT - good volume, rapid rate.  HR high
   120's-130's with BP 170's-180's systolic, 80's diastolic.  Placed back
   on CMV.
   Received Zyprexa for agitation/anxiety, received Propofol.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-3**] 08:06 PM
   Ciprofloxacin - [**2160-1-3**] 10:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-4**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2160-1-3**] 11:00 AM
   Famotidine (Pepcid) - [**2160-1-3**] 08:06 PM
   Midazolam (Versed) - [**2160-1-4**] 06:11 AM
   Fentanyl - [**2160-1-4**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-4**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.4
C (101.1
   HR: 110 (102 - 127) bpm
   BP: 155/75(103) {133/69(93) - 178/94(126)} mmHg
   RR: 22 (19 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
    CVP: 12 (6 - 16)mmHg
   Total In:
                                                                  2,581 mL
                                                                    933 mL
   PO:
   TF:
                                                                    771 mL
                                                                    362 mL
   IVF:
                                                                  1,040 mL
                                                                    270 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,930 mL
                                                                    900 mL
   Urine:
                                                                  2,030 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -349 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 30 cmH2O
   Plateau: 20 cmH2O
   Compliance: 27.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/46/77.[**Numeric Identifier 253**]/30/6
   Ve: 11.4 L/min
   PaO2 / FiO2: 156
   Physical Examination
   GEN: NAD, not responsive to verbal stimuli
   CV: RRR, GII SEM
   PULM: CTAB
   ABD: +BS, soft, non-tender, mild distention
   EXTR:2+ LE edema b/l, 1+ UE edema
   NEURO: minimally responsive (off sedation)
   SKIN: jaundiced
   Labs / Radiology
   42 K/uL
   9.2 g/dL
   143 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.1 mEq/L
   60 mg/dL
   116 mEq/L
   154 mEq/L
   27.1 %
   13.2 K/uL
        [image002.jpg]
                             [**2160-1-2**]  02:57 AM
                             [**2160-1-2**]  03:19 AM
                             [**2160-1-2**]  06:36 AM
                             [**2160-1-2**]  05:50 PM
                             [**2160-1-3**]  02:30 AM
                             [**2160-1-3**]  02:42 AM
                             [**2160-1-3**]  05:10 PM
                             [**2160-1-3**]  05:20 PM
                             [**2160-1-4**]  04:50 AM
                             [**2160-1-4**]  05:16 AM
   WBC
   16.4
   13.3
   13.2
   Hct
   30.3
   30.6
   27.1
   Plt
   38
   52
   42
   Cr
   1.0
   0.9
   1.0
   1.2
   TCO2
   34
   31
   33
   33
   31
   33
   Glucose
   113
   144
   143
   Other labs: PT / PTT / INR:26.4/43.3/2.6, ALT / AST:76/170, Alk Phos /
   T Bili:96/17.7, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:253 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:1.9 g/dL, LDH:269 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.8 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: [**1-3**] UA:
   SpecGr 1.019  pH 6.5  Urobil Neg  Bili Lg   Leuk Neg  Bld Tr  Nitr Neg
   Prot Neg  Glu Neg  Ket Tr   RBC [**4-5**]  WBC [**4-5**]  Bact Few  Yeast None  Epi
   0-2
   Microbiology: [**2160-1-3**] 3:20 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2160-1-3**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST.
   [**12-28**] BAL:
      RESPIRATORY CULTURE (Final [**2159-12-31**]):
         ~1000/ML Commensal Respiratory Flora.
         YEAST.    ~[**2150**]/ML.
         YEAST.    ~1000/ML.  2ND TYPE.
            Isolates are considered potential pathogens in amounts
   >=10,000
            cfu/ml.
   BCx [**1-3**] pending
   [**12-28**]    URINE CULTURE (Final [**2159-12-29**]):
         GRAM NEGATIVE ROD(S).    ~1000/ML.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Ms. [**Known lastname 10198**] is a 51 year old female with HCV cirrhosis who was
   transferred from an OSH after presenting with cough, HA,
   encephalopathy, and fever for 3 days with a hospital course complicated
   by hypotension requiring peripheral dopamine and hypoxia. Her overall
   picture is concerning for an influenza type picture, although she has a
   negative DFA, or a bacterial PNA, or both.  She was found to have two
   speciations of yeast growing in her BAL cultures, as well as in
   multiple sputum cultures.
   .
   # Severe sepsis: Hypoxia and hypotension concerning for infectious
   process with criteria sufficient for SIRS/sepsis given leukocytosis and
   tachypnea.  Potential infectious sources include bacterial pneumonia or
   influenza as above. Alternative infectious sources include SBP or
   urosepsis. Currently off pressors.  Influenza DFA negative.  Sputum and
   BAL positive for two species of yeast.
   - RUQ US and diagnostic paracentesis, per liver, to r/o SBP vs
   intra-abdominal process such as cholangitis
   - f/u pan-culture including blood, urine, sputum, influenza sputum.
   - Vanc/Zosyn/Cipro (day 2) for HAP.
   - watch UOP
   - Continue Hydrocortisone for poor cortisol stimulation test
 wean
   from 50 q6h to 25 q6h.
   .
   # Hypoxic respiratory failure: Given CXR demonstrating bilateraly
   patchy infiltrates as well as her history of cough, fever, and sore
   throat for 2-3 weeks, symptoms are concerning either for influenza or a
   post-influenza bacterial pneumonia.  She currently meets criteria for
   ARDS with a P:F <100, bilateral infiltrates, and no CHF. Other
   potential etiologies include IIPs including AEP and AIP, although less
   likely in setting of viral prodrome.  Initially ventilated with
   volume-cycled AC at ARDSnet settings.
   - Attempt extubation later today.  Patient became agitated during SBP
   with sinus tachycardia to 130
s and hypertension to 180
s systolic.
   Placed back on CMV, given Zyprexa and propofol.  Attempt another
   attempt to rapidly wean later today to minimize time off sedation.
   Difficulty weaning from vent believed to be [**3-5**] encephalopathy vs.
   altered mental status [**3-5**] sedation.
   - Wean Propofol as tolerated using Zyprexa 5mg standing and prn Zyprexa
   as needed
   - If she doesn
t improve, consider doing esophageal balloon to evaluate
   a good PEEP for her
   - Vanco/Zosyn/Cipro for HAP PNA coverage empirically, given unclear
   history of antibiotics and recent admissions, as well as the fact that
   the patient is a hospital SW.
   - Keep her in reverse Trendelberg
   - Albuterol/Ipratropium prn
   - f/u SpO2 on ABG to correlate with SpO2 given PaO2 should be given
   higher SpO2 than we are seeing on the monitor
   .
   # Acute renal failure: Differential includes pre-renal azotemia, ATN,
   or HRS.  Given hypotension, likely secondary to inadequate perfusion.
   FeNa 0.2 and PFI 0.3 so likely prerenal.  No EOS on smear so not likely
   AIN. Cr normalized but elevated today [**1-4**] with hypernatremia, likely
   pre-renal.
   - Increase free water intake; increase free water flushes, D5W IVF 1L
   for now, slowly replete throughout the day
   - PM lytes
   - Consider urine lytes tomorrow if renal failure worsens with increased
   free water
   - Meds were renally dosed [**1-3**] for improved Cr
   .
   # Hypernatremia/Hyponatremia: Initialy hyponatremia likely due to
   hypovolemia in setting of SIRS, and then got 2L D5W with bicarb with
   resolution.  Now hypernatremic with elevated Cr.
   - D5W IVF for slow fluid repletion
   - Increase free water flushes
   - Albumin to decrease third spacing of fluids
   .
   # Liver disease: Patient with MELD 29 HCV cirrhosis with acute
   decompensation, likely in setting of sepsis and ARDS. LFT
s stably
   elevated today.
   - f/u Hepatology recs
   - Lactulose (now having BM
   .
   # Thrombocytopenia/anemia/coagulopathy: Patient with thrombocytopenia,
   anemia, and coagulopathy.  Chronic thrombocytopenia likely secondary to
   portal hypertension and splenic sequestration, although current
   platelet count worse that baseline. Coagulopathy and anemia could also
   be secondary to worsening HCV cirrhosis. DIC was considered, but labs
   are not consistent with this etiology.   Anemia could also be secondary
   to bleeding. MCV is also elevated (but normal folate, B12), likely [**3-5**]
   liver failure.
   .
   # Hyperglycemia: Likely due to 2L of D5W she received.  Resolved.
   .
   FEN: tube feeds w/free water flushes (for hypernatremia), replete
   electrolytes as necessary.
   PPx: Pneumoboots, Pepcid (hold heparin SQ due to thrombocytopenia and
   elevated INR).
   Access: RIJ CVL, arterial line
   Code: Full (confirmed)
   Communication: [**Known lastname **],[**Name (NI) **] (husband) [**Telephone/Fax (5) 10199**]
   Disposition: ICU level of care
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2160-1-3**] 05:29 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-01-04 11:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo women with cirrhosis, PNA/ARDS.  Overnight became HTNsive,
   tachycardic, agitated.  Given boluses of versed/fentanyl.   Attempts
   SBT but she become HTNsive tachycardic.
   24 Hour Events:
 PAN CULTURE - At [**2160-1-3**] 04:00 PM
 FEVER - 101.9
F - [**2160-1-3**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-3**] 08:06 PM
   Ciprofloxacin - [**2160-1-3**] 10:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-4**] 06:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2160-1-4**] 06:11 AM
   Midazolam (Versed) - [**2160-1-4**] 06:11 AM
   Famotidine (Pepcid) - [**2160-1-4**] 08:00 AM
   Other medications:
   chlorhex
   lactulose
   rifaxamin
   SSI
   hydrocort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-4**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.7
C (99.9
   HR: 97 (94 - 132) bpm
   BP: 138/72(96) {123/65(85) - 179/94(126)} mmHg
   RR: 15 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 12 (6 - 16)mmHg
   Total In:
                                                                  2,581 mL
                                                                  1,579 mL
   PO:
   TF:
                                                                    771 mL
                                                                    633 mL
   IVF:
                                                                  1,040 mL
                                                                    495 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,930 mL
                                                                  2,600 mL
   Urine:
                                                                  2,030 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -349 mL
                                                                 -1,021 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 330 (330 - 330) mL
   Vt (Spontaneous): 429 (429 - 429) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   Compliance: 27.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/46/77.[**Numeric Identifier 253**]/30/6
   Ve: 7.1 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   42 K/uL
   143 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.1 mEq/L
   60 mg/dL
   116 mEq/L
   154 mEq/L
   27.1 %
   13.2 K/uL
        [image002.jpg]
                             [**2160-1-2**]  02:57 AM
                             [**2160-1-2**]  03:19 AM
                             [**2160-1-2**]  06:36 AM
                             [**2160-1-2**]  05:50 PM
                             [**2160-1-3**]  02:30 AM
                             [**2160-1-3**]  02:42 AM
                             [**2160-1-3**]  05:10 PM
                             [**2160-1-3**]  05:20 PM
                             [**2160-1-4**]  04:50 AM
                             [**2160-1-4**]  05:16 AM
   WBC
   16.4
   13.3
   13.2
   Hct
   30.3
   30.6
   27.1
   Plt
   38
   52
   42
   Cr
   1.0
   0.9
   1.0
   1.2
   TCO2
   34
   31
   33
   33
   31
   33
   Glucose
   113
   144
   143
   Other labs: PT / PTT / INR:26.4/43.3/2.6, ALT / AST:76/170, Alk Phos /
   T Bili:96/17.7, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:253 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:1.9 g/dL, LDH:269 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.8 mg/dL, PO4:2.3 mg/dL
   Microbiology: sputum:  yeast
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Respiratory failure:
   mechanically ready to extubate, but mental status is a barrier.
   cirrhosis:  increased [**Last Name (LF) 10325**], [**First Name3 (LF) 124**] get RUQ U/S and diagnostic para
   agitation:  likely due to ICU deliirum and hepatic encephalopathy.
   Zyprexa added.  Continue attempts to wean sedation.
   hypernatremia:  free water flushes, add some D5W IVF
   acute renal failure:  has overall improved.  brisk urine output c/w
   post-ATN diuresis.
   septic shock:  can stop hydrocort tomorrow
   continue:  vanco/zosyn/cipro empirically for PNA.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2160-1-3**] 05:29 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2160-01-05 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2160-1-4**] 02:30 PM
   abdominal US and flow study
 FEVER - 102.4
F - [**2160-1-4**] 08:00 AM
   [**1-4**]
   - RUQ US read pending.
   - Abd US visualized small amt fluid in abd with loops of bowel in close
   proximity.  Spoke to hepatology, felt if scant amt of fluid and loops
   of bowel posed risk of perf, should hold off on diag paracentesis.
   - Nurse reported ~10cc coffee ground emesis in NG drawback, minimal
   bleeding from mouth.  This morning, had serosanguinous fluid and clots
   drawn back from NGT.
   - Received 1L D5W, NGT free water flushes increased yesterday for
   hypernatremia.  Received albumin to prevent third spacing.
   - Decreased propofol, put on zyprexa standing tid. Currently on
   Propofol 20.
   - Patient on PSV, but unable to tolerate and placed back on CMV/AC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-3**] 08:06 PM
   Ciprofloxacin - [**2160-1-3**] 10:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-5**] 05:49 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-1-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-5**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.1
C (100.6
   HR: 105 (94 - 132) bpm
   BP: 147/75(101) {119/59(81) - 179/93(125)} mmHg
   RR: 34 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
    CVP: 1 (1 - 17)mmHg
   Total In:
                                                                  4,240 mL
                                                                  1,183 mL
   PO:
   TF:
                                                                  1,380 mL
                                                                    319 mL
   IVF:
                                                                  1,460 mL
                                                                    364 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  3,670 mL
                                                                    725 mL
   Urine:
                                                                  2,370 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    570 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   Vt (Spontaneous): 559 (429 - 559) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 41.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/38/75/30/5
   Ve: 9.9 L/min
   PaO2 / FiO2: 150
   Physical Examination
   GEN: NAD, not responsive to verbal stimuli
   CV: RRR, GII SEM @ RUSB
   PULM: CTAB
   ABD: +BS, soft, non-tender, mild-moderate distention
   EXTR:2+ LE edema b/l, 1+ UE edema
   NEURO: minimally responsive (off sedation)
   SKIN: jaundiced
   Labs / Radiology
   35 K/uL
   8.7 g/dL
   158 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.4 mEq/L
   48 mg/dL
   119 mEq/L
   156 mEq/L
   26.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2160-1-3**]  02:30 AM
                             [**2160-1-3**]  02:42 AM
                             [**2160-1-3**]  05:10 PM
                             [**2160-1-3**]  05:20 PM
                             [**2160-1-4**]  04:50 AM
                             [**2160-1-4**]  05:16 AM
                             [**2160-1-4**]  05:08 PM
                             [**2160-1-4**]  05:45 PM
                             [**2160-1-5**]  02:44 AM
                             [**2160-1-5**]  04:10 AM
   WBC
   13.3
   13.2
   13.0
   Hct
   30.6
   27.1
   26.3
   Plt
   52
   42
   35
   Cr
   0.9
   1.0
   1.2
   1.0
   0.8
   TCO2
   33
   31
   33
   34
   31
   Glucose
   144
   143
   157
   158
   Other labs: PT / PTT / INR:33.9/56.4/3.4, ALT / AST:76/170, Alk Phos /
   T Bili:96/17.7, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:110 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:1.9 g/dL, LDH:269 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.0 mg/dL
   Imaging: [**1-4**] RUQ US pending
   Microbiology: [**1-3**] sputum
   GRAM STAIN (Final [**2160-1-3**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST.
   [**1-3**] urine cx
        YEAST.    ~3000/ML.
   [**1-3**] bcx pending
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Ms. [**Known lastname 10198**] is a 51 year old female with HCV cirrhosis who was
   transferred from an OSH after presenting with cough, HA,
   encephalopathy, and fever for 3 days with a hospital course complicated
   by hypotension requiring peripheral dopamine and hypoxia. Her overall
   picture is concerning for an influenza type picture, although she has a
   negative DFA, or a bacterial PNA, or both.  She was found to have two
   speciations of yeast growing in her BAL cultures, as well as in
   multiple sputum cultures.
   .
   # Severe sepsis: Hypoxia and hypotension concerning for infectious
   process with criteria sufficient for SIRS/sepsis given leukocytosis and
   tachypnea.  Potential infectious sources include bacterial pneumonia or
   influenza as above. Alternative infectious sources include SBP or
   urosepsis. Currently off pressors.  Influenza DFA negative.  Sputum and
   BAL positive for two species of yeast.
   - Continue Vanc/Zosyn/Cipro (day 3) for HAP.
   - CXR today to assess difficulty weaning, as well as fevers
   - Send beta glucan and C. diff to work up continued fevers and failure
   to wean
   - f/u RUQ US final read
   - Deferring diagnostic paracentesis for now, as insufficient amount of
   ascites to safely perform procedure
   - f/u pan-culture including blood, urine, sputum, influenza sputum.
   - Continue Hydrocortisone for poor cortisol stimulation test
 weaned
   from 50 q6h to 25 q6h [**1-4**], wean to 25mg q12h [**1-5**].
   .
   # Hypoxic respiratory failure: Given CXR demonstrating bilateraly
   patchy infiltrates as well as her history of cough, fever, and sore
   throat for 2-3 weeks, symptoms are concerning either for influenza or a
   post-influenza bacterial pneumonia.  She currently meets criteria for
   ARDS with a P:F <100, bilateral infiltrates, and no CHF. Other
   potential etiologies include IIPs including AEP and AIP, although less
   likely in setting of viral prodrome.  Initially ventilated with
   volume-cycled AC at ARDSnet settings. Attempted extubation.  Patient
   became agitated during SBP with sinus tachycardia to 130
s and
   hypertension to 180
s systolic.  Placed back on CMV, given Zyprexa and
   propofol.  Attempt another attempt to rapidly wean later today to
   minimize time off sedation.  Difficulty weaning from vent believed to
   be [**3-5**] encephalopathy vs. altered mental status [**3-5**] sedation.
   - Transition to PSV today and repeat ABG
   - CXR, beta glucan to w/u possible causes of difficulty weaning from
   vent
   - Per liver, consider bronch to r/o VAP if pt does not improve or
   worsens
   - Per liver, consider fungal coverage if pt does not improve
   - Wean Propofol as tolerated using Zyprexa 5mg standing and prn Zyprexa
   as needed
   - Vanco/Zosyn/Cipro for HAP PNA coverage empirically, given unclear
   history of antibiotics and recent admissions, as well as the fact that
   the patient is a hospital SW.
   - Keep her in reverse Trendelberg
   - If she doesn
t improve, consider doing esophageal balloon to evaluate
   a good PEEP for her
   - Albuterol/Ipratropium prn
   .
   # Hypernatremia/Hyponatremia: Initialy hyponatremia likely due to
   hypovolemia in setting of SIRS, and then got 2L D5W with bicarb with
   resolution.  Now hypernatremic with elevated Cr in setting of 1L
   diarrhea/day and insensible losses [**3-5**] fever.
   - Calculated free water deficit 4.8L.  Administer continuous D5W IVF at
   125cc/hr for fluid repletion
   - Continue free water flushes 250cc q4h
   - Albumin given yesterday to decrease third spacing of fluids
   - Decrease lactulose to 30mg once today, then re-assess
   .
   # Thrombocytopenia/anemia/coagulopathy: Patient with thrombocytopenia,
   anemia, and coagulopathy.  Chronic thrombocytopenia likely secondary to
   portal hypertension and splenic sequestration, although current
   platelet count worse that baseline. Coagulopathy and anemia could also
   be secondary to worsening HCV cirrhosis. DIC was considered, but labs
   are not consistent with this etiology.   Anemia could also be secondary
   to bleeding. MCV is also elevated (but normal folate, B12), likely [**3-5**]
   liver failure.
   - Repeat Hct; trend today to ensure pt not actively bleeding
   - Ensure active T&S
   .
   # Acute renal failure: Differential includes pre-renal azotemia, ATN,
   or HRS.  Given hypotension, likely secondary to inadequate perfusion.
   FeNa 0.2 and PFI 0.3 so likely prerenal.  No EOS on smear so not likely
   AIN. Cr normalized but elevated today [**1-4**] with hypernatremia, likely
   pre-renal.  Resolved with increased free water flushes and IVF.
   - Meds were renally dosed [**1-3**] for improved Cr
   .
   # Liver disease: Patient with MELD 29 HCV cirrhosis with acute
   decompensation, likely in setting of sepsis and ARDS. LFT
s stably
   elevated today.
   - f/u Hepatology recs
   - Lactulose (now having BM
   .
   # Hyperglycemia: Likely due to 2L of D5W she received.  Resolved.
   .
   FEN: tube feeds w/free water flushes (for hypernatremia), replete
   electrolytes as necessary.
   PPx: Pneumoboots, Pepcid (hold heparin SQ due to thrombocytopenia and
   elevated INR).
   Access: RIJ CVL, arterial line
   Code: Full (confirmed)
   Communication: [**Known lastname **],[**Name (NI) **] (husband) [**Telephone/Fax (5) 10199**].
   Liver requested family meeting, plan for Monday to discuss patient
   poor prognosis with family.
   Disposition: ICU level of care
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2160-1-4**] 12:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-01-05 11:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   cirrhosis, resp failure, ARF, shock
   24 Hour Events:
 ULTRASOUND - At [**2160-1-4**] 02:30 PM
   abdominal US and flow study for eval for hyperbili and fevers
 FEVER - 102.4
F - [**2160-1-4**] 08:00 AM
   Possible coffee grounds in NG
   Propofol decreased, zyprexa standing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-1-3**] 10:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-5**] 05:49 AM
   Vancomycin - [**2160-1-5**] 08:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-1-5**] 07:30 AM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-5**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.2
C (100.7
   HR: 91 (91 - 113) bpm
   BP: 111/57(77) {111/57(77) - 160/78(109)} mmHg
   RR: 30 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.5 kg (admission): 75 kg
   Height: 63 Inch
   CVP: 4 (1 - 17)mmHg
   Total In:
                                                                  4,240 mL
                                                                  2,053 mL
   PO:
   TF:
                                                                  1,380 mL
                                                                    594 mL
   IVF:
                                                                  1,460 mL
                                                                    709 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  3,670 mL
                                                                  2,210 mL
   Urine:
                                                                  2,370 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    570 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 330 (330 - 330) mL
   Vt (Spontaneous): 502 (502 - 559) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   Compliance: 41.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/38/75/30/5
   Ve: 10.3 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, Cyanosis, Clubbing
   Skin:  Not assessed, Rash:
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, barely arousable
   Labs / Radiology
   8.0 g/dL
   33 K/uL
   158 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.4 mEq/L
   48 mg/dL
   119 mEq/L
   156 mEq/L
   24.7 %
   11.1 K/uL
        [image002.jpg]
                             [**2160-1-3**]  02:42 AM
                             [**2160-1-3**]  05:10 PM
                             [**2160-1-3**]  05:20 PM
                             [**2160-1-4**]  04:50 AM
                             [**2160-1-4**]  05:16 AM
                             [**2160-1-4**]  05:08 PM
                             [**2160-1-4**]  05:45 PM
                             [**2160-1-5**]  02:44 AM
                             [**2160-1-5**]  04:10 AM
                             [**2160-1-5**]  09:26 AM
   WBC
   13.2
   13.0
   11.1
   Hct
   27.1
   26.3
   24.7
   Plt
   42
   35
   33
   Cr
   1.0
   1.2
   1.0
   0.8
   TCO2
   33
   31
   33
   34
   31
   Glucose
   143
   157
   158
   Other labs: PT / PTT / INR:33.9/56.4/3.4, ALT / AST:76/170, Alk Phos /
   T Bili:96/17.7, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:110 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:1.9 g/dL, LDH:269 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.0 mg/dL
   Imaging: U/s reported - relatively benign, s/a ascites too small to tap
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Respiratory failure: mechanically ready to extubate but mental status
   still a barrier. on standing zyprexa. off propofol becomes tachypneic,
   tachycardic (on PSV). Has resp alkalosis but better on PSV
   cirrhosis:  increased bili
   agitation:  likely due to ICU deliirum and hepatic encephalopathy.
   Zyprexa added.  Continue attempts to wean sedation.
   hypernatremia:  free water flushes, add some D5W IVF
   acute renal failure:  has overall improved.  brisk urine output c/w
   post-ATN diuresis.
   septic shock:  HC at 25mg q12h, vanc/cipro/zosyn, check another cdiff,
   send beta glucan, hold off on antifungals for now
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2160-1-4**] 12:00 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2159-12-28**] 06:16 PM
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP: HOB>30
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill, family meeting to be planned

2160-01-06 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2160-1-5**] 12:30 PM
 ENDOSCOPY - At [**2160-1-5**] 03:50 PM
 ARTERIAL LINE - STOP [**2160-1-6**] 02:36 AM
 INVASIVE VENTILATION - STOP [**2160-1-6**] 03:33 AM
   CMO, extubated, family at bedside.
   Morphine drip, scopolamine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-1-3**] 10:03 PM
   Vancomycin - [**2160-1-5**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-6**] 12:39 AM
   Infusions:
   Morphine Sulfate - 15 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-1-5**] 07:30 AM
   Propofol - [**2160-1-5**] 04:00 PM
   Morphine Sulfate - [**2160-1-6**] 04:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-6**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.8
C (98.3
   HR: 112 (76 - 112) bpm
   BP: 134/65(81) {111/53(67) - 152/76(95)} mmHg
   RR: 14 (6 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80.5 kg (admission): 75 kg
   Height: 63 Inch
    CVP: 9 (4 - 336)mmHg
   Total In:
                                                                  6,775 mL
                                                                    614 mL
   PO:
   TF:
                                                                    729 mL
   IVF:
                                                                  2,916 mL
                                                                    614 mL
   Blood products:
                                                                  2,070 mL
   Total out:
                                                                  3,885 mL
                                                                    300 mL
   Urine:
                                                                  2,085 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,890 mL
                                                                    314 mL
   Respiratory support
   On room air.
   Physical Examination
   GEN: Resting in bed, eyes closed, breathing deep and with gasp but
   non-agonal.
   CV/PULM/ABD: Defer to attending
s exam
   EXTR: without edema in legs
   Labs / Radiology
 no new labs or radiology.
   52 K/uL
   9.6 g/dL
   212
   1.1 mg/dL
   29 mEq/L
   3.4 mEq/L
   46 mg/dL
   114 mEq/L
   153 mEq/L
   29.0 %
   11.3 K/uL
        [image002.jpg]
                             [**2160-1-5**]  02:44 AM
                             [**2160-1-5**]  04:10 AM
                             [**2160-1-5**]  09:26 AM
                             [**2160-1-5**]  02:21 PM
                             [**2160-1-5**]  03:24 PM
                             [**2160-1-5**]  03:35 PM
                             [**2160-1-5**]  04:00 PM
                             [**2160-1-5**]  06:00 PM
                             [**2160-1-5**]  07:50 PM
                             [**2160-1-5**]  10:00 PM
   WBC
   13.0
   11.1
   9.4
   11.3
   Hct
   26.3
   24.7
   22.4
   21.3
   29.0
   Plt
   35
   33
   38
   52
   Cr
   0.8
   1.1
   TCO2
   31
   31
   31
   Glucose
   158
   188
   187
   212
   Other labs: PT / PTT / INR:23.3/43.5/2.2, ALT / AST:76/170, Alk Phos /
   T Bili:96/18.9, Differential-Neuts:75.0 %, Band:5.0 %, Lymph:8.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:8037 ng/mL, Fibrinogen:151 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:1.9 g/dL, LDH:269 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 HYPERNATREMIA (HIGH SODIUM)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ALTERATION IN NUTRITION
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Patient made CMO last night. On morphine gtt. Extubated. Family at
   bedside.
   - Offer supportive care to patient and family.
   - Continue scopolamine patch and morphine gtt.
   -          Patient
s HR, BP, and RR are doing well s/p extubation. Will
   check venous blood gas, cbc, chem. 10, to get a better sense of her
   current state. Expectation was a quick decline, however patient is
   holding on well, so want to clarify her current medical status.
   -          Will discuss with hepatology their prognosis for her, now
   that we see she is breathing well on room air s/p extubation.
   -          Family aware that although patient is CMO, that we will do
   this labwork and discussion, and we will update them afterwards.
   ICU Care
   Lines:
   Multi Lumen - [**2159-12-28**] 08:02 PM
   Code status: Comfort measures only
   Disposition: